US09290440B2
Methoxymethyl 2-(2-nitrovinyl)phenyl ether
2-Methoxymethoxybenzaldehyde (16.4 g) was suspended in nitromethane (54 mL), added with ammonium acetate (5.95 g), and stirred for 30 minutes at 80° C. After cooling to room temperature, the solvent was evaporated under reduced pressure and the residue was suspended in water and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and saturated brine in order and dried over anhydrous sodium sulfate. The solvent was then evaporated under reduced pressure. The residues were purified by diol silica gel column chromatography (5% ethyl acetate/hexane) to obtain the title compound (11.6 g) as a yellow oil.

reactant | 2-Methoxymethoxybenzaldehyde | 16.4 g | COCOC1=C(C=O)C=CC=C1 | C9H10O3
reactant | ammonium acetate | 5.95 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 54 mL | [N+](=O)([O-])C | CH3NO2
product | Methoxymethyl 2-(2-nitrovinyl)phenyl ether | 11.6 g | [N+](=O)([O-])C=CC1=C(C=CC=C1)OCOC | C10H11NO4
